reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:12])=[C:4]1[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]=[C:7]([H:13])[H:17])([H:15])[H:16],72.4045601342806
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]([C:3](=[O:4])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9].[H:11][H:13],103.69946622368401
[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])=[C:5]=[N:6][H:8])[H:7],83.0086830639725
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[C-:4]#[O+:5].[O:1]([C:2]([C:3](=[C:6]=[C:7]([H:12])[H:13])[H:11])([H:9])[H:10])[H:8],45.251968364677204
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([O:3][H:12])[C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],23.984667545821594
[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[N:3](=[C:4]=[O:5])[C:6]([H:13])([H:14])[H:15]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],75.34928907391573
[N:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6]1[H:12])([H:7])[H:8]>>[N:1]([N+:6]1([H:12])[C-:2]=[C:3]([H:9])[C:4]([H:10])=[C:5]1[H:11])([H:7])[H:8],130.354045933077
[C:1]([N:2]([C-:3]=[O+:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],40.412648454299806
[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7]>>[O:1]([C:2]1=[N:3][N:6]1/[C:5](=[N:4]/[H:8])[H:9])[H:7],92.4931459413218
[C:1](#[C:2][C:3](=[C:4]=[N:5][H:7])[H:8])[H:6]>>[C:1](#[C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],66.9750106034974
[C:1]([C:2]([O:3][C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[N:6]([H:8])([H:12])[H:13].[O:3]=[C:4]=[O:5],61.792187731412
[C+:1]([N:2]([C:3]([O-:4])=[C:5]([O:6][H:7])[H:11])[H:10])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],38.686648999654494
[O:1]([C:2][C:3]([C:4]#[N:5])([H:7])[H:8])[H:6]>>[O:1]=[C:2]([C:3]([C:4]#[N:5])([H:7])[H:8])[H:6],30.240249434917303
[C:1]([C+:2]([C:3]([H:10])([H:11])[H:12])[C:5]([C:4]([H:13])([H:14])[H:15])=[C-:6][H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9],35.134194333263984
[C:1](=[N:2][C:3]([H:10])([H:11])[H:12])([H:7])[H:9].[C:4](=[O:5])([C:6]([H:13])([H:14])[H:15])[H:8]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9],59.25614232674971
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([H:7])([H:8])([H:9])[H:14].[C:2](=[C:3]([O:4][H:13])[H:12])([H:10])[H:11],96.3948646667392
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O+:3]=[C-:4][O:5][C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],99.34354601598749
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:5](/[C:4]([O:3][C:2](=[O:6])[H:8])([H:9])[H:10])[H:11])\[H:7],49.154987254698
[C:1]([C:2](=[O:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[O:5])=[N:6][H:11],86.8160765494838
[O-:1][C:2](=[C:3]=[O+:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],13.629730496788596
[C:1]([C@:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6][O:7][H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],27.580427051817395
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([H:11])[H:12])([H:9])[H:10].[O:3]([C:4]([C:5]([O:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:8],67.5479313669301
[C:1]([C:3]1=[C:4]([C:5]#[N:6])[C:2]1([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],78.5019368513926
[N:1]#[C:2][C@@:3]1([H:8])[O:4][C:5]([H:10])([H:11])[C:6][N:7]1[H:9]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],45.5242197448822
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:19])([H:13])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],107.555900490432
[O:1]([C:2]([C:5]1([H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])=[O:6])[H:7]>>[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],121.20494040753968
